* Z:\mnt\design.r\spice\examples\3526-2.asc
L1 N001 N002 2.2µ Rpar=5K
V1 N001 0 2
R1 OUT N003 1.78Meg
R2 N003 0 1Meg
C1 OUT 0 4.7µ Rser=1m
Rload OUT 0 250
XU1 N002 0 N001 N001 N003 OUT LTC3526-2
.tran 350u startup
.lib LTC3526-2.sub
.backanno
.end
